US08685980B2
Following General Procedure G, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and pyrrolidine-1-carbonyl chloride (25 mL, 0.690 mmol) gave 7-cyclopentyl-2-{5-[4-(pyrrolidine-1-carbonyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (84 mg, 70%). MS (ESI) m/z 532.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | pyrrolidine-1-carbonyl chloride | 0.690 mmol, 25 mL | N1(CCCC1)C(=O)Cl | C5H8ClNO
product | 7-cyclopentyl-2-{5-[4-(pyrrolidine-1-carbonyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 84 mg, 70% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(=O)N2CCCC2)N1C1CCCC1)C | C28H37N9O2
